US05677287
4-(Dimethylamino) butyltriphenylphosphonium bromide
Into a solution of 4-dimethylaminobutan-1-ol (2.95g, 25 mmol) and triphenylphosphine (6.55 g, 25 mmol) in benzene (20 ml) was bubbled anhydrous HBr at a moderate rate for about 10 minutes with ice bath cooling. The nearly solid white mass was removed from the cooling bath and heated to about 155° C. for about five hours (benzene distilled off at about 80° C.). After cooling to ambient temperature, water was added to the solid mass and the mixture was filtered to remove insoluble material. The acidic filtrate was extracted three times with chloroform and the aqueous layer was made basic (pH 9) with aqueous saturated NaHCO3, and then concentrated to a white solid. The solids were slurried with chloroform and removed by filtration. The filtrate was dried over magnesium sulfate, filtered, concentrated, and recrystallized from ethanol/ether (1/4). White clusters of needles were obtained and dried under vacuum to afford 5.6 g (51%) of title compound.

reactant | 4-dimethylaminobutan-1-ol | 25 mmol, 2.95g | CN(CCCCO)C | C6H15NO
reactant | triphenylphosphine | 25 mmol, 6.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HBr | Br | BrH
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4-(Dimethylamino) butyltriphenylphosphonium bromide | 5.6 g, 51% | [Br-].CN(CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C24H29NP.BrH/c1-25(2)20-12-13-21-26(22-14-6-3-7-15-22,23-16-8-4-9-17-23)24-18-10-5-11-19-24;/h3-11,14-19H,12-13,20-21H2,1-2H3;1H/q+1;/p-1
